US09290514B2
Step 7. 9-(3,5-Dimethylisoxazol-4-yl)-3-phenyl-2,3-dihydro[1,4]oxazino[2,3,4-hi]indazol-6(5H)-one
A suspension of methyl 8-(3,5-dimethylisoxazol-4-yl)-4-nitroso-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine-5-carboxylate (0.228 g, 0.580 mmol) in ethyl acetate (4.04 mL) and methanol (4.04 mL) at 0° C. was treated with saturated aqueous ammonium chloride solution (2.02 mL, 30.2 mmol) and then zinc (0.303 g, 4.64 mmol) was added in three portions over 6 min. The cooling bath was removed and the reaction mixture was stirred for 2 h. The reaction mixture was diluted with ethyl acetate (30 mL), filtered through a Celite pad, and rinsed with ethyl acetate (2×10 mL). The filtrate was washed with water (20 mL), brine, (20 mL), dried over sodium sulfate, filtered, and concentrated to give a crude tan foam. Purification by flash column chromatography (100% dichloromethane to 10% methanol/dichloromethane) gave the desired product (0.14 g, 70%) as a yellow foam. 1H NMR (500 MHz, DMSO-d6) δ 10.98 (br s, 1H), 7.40-7.29 (m, 3H), 7.26 (d, J=8.3 Hz, 1H), 7.23-7.15 (m, 2H), 6.87 (d, J=8.2 Hz, 1H), 5.39 (br s, 1H), 4.74 (dd, J=11.5, 3.1 Hz, 1H), 4.61 (dd, J=11.5, 5.8 Hz, 1H), 2.31 (s, 3H), 2.15 (s, 3H). LCMS calculated for C20H18N3O3 (M+H)+: m/z=348.1. found: 348.1.

reactant | methyl 8-(3,5-dimethylisoxazol-4-yl)-4-nitroso-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine-5-carboxylate | 0.580 mmol, 0.228 g | CC1=NOC(=C1C=1C=CC(=C2N(C(COC21)C2=CC=CC=C2)N=O)C(=O)OC)C | C21H19N3O5
reactant | ammonium chloride | 30.2 mmol, 2.02 mL | [Cl-].[NH4+]
solvent | ethyl acetate | 4.04 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4.04 mL | CO | CH4O
catalyst | zinc | 4.64 mmol, 0.303 g | [Zn] | Zn
product | 9-(3,5-Dimethylisoxazol-4-yl)-3-phenyl-2,3-dihydro[1,4]oxazino[2,3,4-hi]indazol-6(5H)-one | 0.14 g, 70% | CC1=NOC(=C1C1=CC=C2C(NN3C2=C1OCC3C3=CC=CC=C3)=O)C | C20H17N3O3
